US06890947B2
Rac-2-Ethoxy-3-(1H-indol-5-yl)-propionic Acid Ethyl Ester
A suspension of 9.7 g of (Z)-2-ethoxy-3-(1H-indol-5-yl)-acrylic acid ethyl ester in 100 ml of EtOH and 1.0 g of Pd/C (10%) was hydrogenated at 22° C. for 2 h after which time hydrogen uptake ceased. The suspension was filtered, the filtrate evaporated and the residue chromatographed on silica (n-hexane/AcOEt, 2:1) to give 8.7 g of the title compound as a white solid. MS: (M)+ 261.2.

reactant | (Z)-2-ethoxy-3-(1H-indol-5-yl)-acrylic acid ethyl ester | 9.7 g | C(C)OC(/C(=C/C=1C=C2C=CNC2=CC1)/OCC)=O | C15H17NO3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 100 ml | CCO | C2H6O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | Rac-2-Ethoxy-3-(1H-indol-5-yl)-propionic Acid Ethyl Ester | 8.7 g | C(C)OC(C(CC=1C=C2C=CNC2=CC1)OCC)=O | C15H19NO3
